US07645771B2
3-(4-{2-[3-(2-Methyl-1H-benzimidazol-1-yl)-8-azabicyclo[3.2.1]oct-8-yl]ethyl}piperidin-4-yl)phenol Hydrobromide.
A mixture of tert-butyl 4-(3-methoxy phenyl)-4-{2-[3-(2-methyl-1H-benzimidazol-1-yl)-8-azabicyclo[3.2.1]oct-8-yl]ethyl}piperidine-1-carboxylate (235 mg, 0.42 mmol) and 48% hydrobromic acid was heated at 100° C. for 6 h. The mixture was concentrated and used without further purification.

reactant | tert-butyl 4-(3-methoxy phenyl)-4-{2-[3-(2-methyl-1H-benzimidazol-1-yl)-8-azabicyclo[3.2.1]oct-8-yl]ethyl}piperidine-1-carboxylate | 0.42 mmol, 235 mg | COC=1C=C(C=CC1)C1(CCN(CC1)C(=O)OC(C)(C)C)CCN1C2CC(CC1CC2)N2C(=NC1=C2C=CC=C1)C | C34H46N4O3
reactant | hydrobromic acid | Br | BrH
product | 3-(4-{2-[3-(2-Methyl-1H-benzimidazol-1-yl)-8-azabicyclo[3.2.1]oct-8-yl]ethyl}piperidin-4-yl)phenol Hydrobromide | Br.CC1=NC2=C(N1C1CC3CCC(C1)N3CCC3(CCNCC3)C=3C=C(C=CC3)O)C=CC=C2 | InChI=1S/C28H36N4O.BrH/c1-20-30-26-7-2-3-8-27(26)32(20)24-18-22-9-10-23(19-24)31(22)16-13-28(11-14-29-15-12-28)21-5-4-6-25(33)17-21;/h2-8,17,22-24,29,33H,9-16,18-19H2,1H3;1H
